US04814341
(3-n-Hexylguanyl)thiourea
Gaseous hydrogen sulfide was bubbled through a mixture of 4.5 g. (0.027 mole) of 1-cyano-3-n-hexylguanidine, 75 ml. of methanol and 0.5 ml. of diethylamine for 6 hours, with stirring. Stirring was continued for 16 hours and then the mixture was heated to reflux temperature and hydrogen sulfide was again bubbled through the mixture. The resulting mixture was heated under reflux for an additional 16 hours, and then it was cooled to room temperature and evaporated in vacuo. The residue was chromatographed on silica gel, eluting with 1:9 methanol-chloroform to give 4.4 g. of the title compound as a solid.

reactant | 1-cyano-3-n-hexylguanidine | 0.027 mole | C(#N)NC(=N)NCCCCCC | C8H16N4
reactant | diethylamine | C(C)NCC | C4H11N
reactant | hydrogen sulfide | S | H2S
solvent | methanol | CO | CH4O
product | (3-n-Hexylguanyl)thiourea | CCC(CCC)NC(=N)NC(=S)N | C8H18N4S
